Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
cc: vision changes

 
Major Surgical or Invasive Procedure:
EBUS/Broncoscopy- ___
 
History of Present Illness:
HISTORY OF PRESENTING ILLNESS:
Mr. ___ is a ___ male with history of left lung
cancer s/p chemo, XRT, and left lower lobe resection ___ years
ago transferred from ___ following discovery of
multiple brain lesions on MRI head.

The patient reports that over the past ___ weeks he has been
having right eye visual disturbances which he describes as
"dancing multicolored dots" in his right peripheral vision. He
also reports difficulty with reading the newspaper. He reports
that he would be reading a line and then move onto the next line
before finishing. He also notes forgetfulness with driving on
routes he is normally very familiar, passing his street several
times. Also, when taking a right turn he would sometimes hit the
curb. He was his Opthalmologist about one week ago who referred
him to get a brain MRI. Patient had an MRI which showed multiple
brain lesions and was called to go to the ___. He was
then transferred to the ___ ED for Neurosurgery evaluation.

On arrival to the ED, initial vitals were 97.9 73 152/77 16 97%
RA. Exam was notable for grossly normal neuro exam. Labs were
overall unremarkable. Neurosurgery was consulted who recommended
no urgent surgical intervention, keppra, and hold aspirin.
Patient was given dexamethasone 10mg IV and keppra 1500mg PO. 
The
___ fellow was consulted and recommended admission to ___ for
further work-up and evaluation. Prior to transfer, vitals were
97.8 88 116/78 16 99% RA.

On arrival to the floor, he is feeling well and denies pain. He
reports shortness of breath on exertion which is stable. He
denies fevers/chills, headache, dizziness/lightheadedness, chest
pain, palpitations, cough, abdominal pain, nausea/vomiting,
diarrhea, and dysuria.

REVIEW OF SYSTEMS: A complete 10-point review of systems was
performed and was negative unless otherwise noted in the HPI.

 
Past Medical History:
PAST ONCOLOGIC HISTORY:
- Lung CA s/p chemo, XRT, and LLL resection ___ years ago, gland 
on
larynx with metastatic lesion s/p revision with prosthetic
device. Previously followed at ___ with serial imaging that
was negative. Last follow-up/imaging about ___ years ago.
 
PAST MEDICAL HISTORY:
- Hypertension
- Hyperlipidemia
- Type II Diabetes
- s/p left foot ___ and ___ digit amputations for gangrene
- Poliomyelitis at ___ years old
- s/p left leg ORIF
- h/o PE in settting of cancer s/p IVC filter (per patient, not 
retrieved)
- hemorrhagic pericardial effusion in setting of Coumadin use, 
s/p pericardiocentesis

 
Social History:
___
Family History:
FAMILY HISTORY: Mother and sister with breast cancer.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: Temp 97.7, BP 133/81, HR 86, RR 20, O2 sat 97% RA.
GENERAL: Pleasant man, in no distress, lying in bed comfortably.
HEENT: Anicteric, PERLL, OP clear.
CARDIAC: RRR, normal s1/s2, no m/r/g.
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi.
ABD: Normal bowel sounds, soft, nontender, nondistended, no
hepatomegaly, no splenomegaly.
EXT: Warm, well perfused, no lower extremity edema, erythema or
tenderness.
NEURO: Alert, oriented, good attention and linear thought, CN
II-XII intact. Right FTN dysmetria. Decreased right temporal
visual field. Strength full throughout.
SKIN: No significant rashes.

DISCHARGE PHYSICAL EXAM:
VS: 97.4 BP:118/72 HR:76 R:20 O2:98 RA 
GENERAL: Pleasant man, in no distress, lying in bed comfortably.
HEENT: Anicteric, PERLL, OP clear.
CARDIAC: RRR, normal s1/s2, no m/r/g.
LUNG: Clear B/L to auscultation bilaterally, no crackles, 
wheezes, or rhonchi.
ABD: Obese, non-distended. Normal bowel sounds, soft, nontender 
can not asses HSM due to habitus
EXT: Warm, well perfused +venous stasis changes
NEURO: Alert, oriented, good attention and linear thought, 
strength ___ in upper and lower extremities
SKIN: No significant rashes.
 
Pertinent Results:
___ 03:30PM   GLUCOSE-117* UREA N-19 CREAT-1.2 SODIUM-141 
POTASSIUM-3.9 CHLORIDE-100 TOTAL CO2-29 ANION GAP-16
___ 03:30PM   estGFR-Using this
___ 03:30PM   WBC-8.5 RBC-4.39* HGB-12.9* HCT-42.1 MCV-96 
MCH-29.4 MCHC-30.6* RDW-13.1 RDWSD-46.7*
___ 03:30PM   NEUTS-77.9* LYMPHS-10.8* MONOS-8.6 EOS-1.6 
BASOS-0.7 IM ___ AbsNeut-6.62* AbsLymp-0.92* AbsMono-0.73 
AbsEos-0.14 AbsBaso-0.06
___ 03:30PM   PLT COUNT-260
___ 03:30PM   ___ PTT-33.8 ___

Labs on discharge:

___ 06:35AM BLOOD WBC-11.0* RBC-4.48* Hgb-13.5* Hct-41.8 
MCV-93 MCH-30.1 MCHC-32.3 RDW-13.2 RDWSD-45.5 Plt ___
___ 06:35AM BLOOD Glucose-126* UreaN-33* Creat-1.6* Na-140 
K-4.6 Cl-98 HCO___ AnGap-16
___ 06:35AM BLOOD Calcium-8.7 Phos-5.4* Mg-2.0

IMAGING; CT Abdomen/Pelvis:
___
IMPRESSION: 
1. 2 hepatic low-attenuation lesions, indeterminate, and 
worrisome for 
metastases.  Larger lesion measures 1.1 cm.  Comparison to prior 
studies is recommended.  If none are available, liver MRI is 
recommended for further evaluation. 
2. No other findings suspicious for intra-abdominal/pelvic 
metastases. 
3. Intrathoracic findings dictated separately. 

CT Chest ___
IMPRESSION:  
Right upper lobe lung nodule and more irregular left upper lobe 
(basal) soft tissue lesions, circumferential left pleural 
thickening and small effusion, right hilar adenopathy, 
suspicious for metachronous and recurrent malignancy 
respectively. 
Coronary and head and neck atherosclerosis. 

 
Brief Hospital Course:
___ male with history of left lung cancer s/p chemo, 
XRT, and left lower lobe resection ___ years ago transferred 
from ___ following discovery of multiple brain 
lesions on MRI head.

# Brain Lesions: 
# Metastatic Malignancy:
The patient presented with visual field defects and brain 
lesions on MRI. He was seen by neurosurgery in the emergency 
department who felt there was no indication for surgery and 
recommended starting Keppra for seizure prophylaxis. The patient 
was admitted to the hospital. He had a CT torso which showed two 
lesions in his lungs and lymphadenopathy. The patient underwent 
bronchoscopy/EBUS with biopsy on ___. Biopsies are pending 
on discharge. He was seen by neurooncology and radiation 
oncology who recommended whole brain radiation. Given the 
patient prefers to follow up in ___, he was set up with a 
follow up appointment in ___ with his radiation oncologist. 
Medical oncology also made a referral to a new oncologist in 
___ as the patient's previous oncologist moved out of the 
area. The patient was asymptomatic prior to discharge. Biopsies 
are pending on discharge. 

#Chronic Kidney disease
Per records from ___ baseline seems close to 1.4. The 
patient's Lasix and ___ were held initially. His creatinine was 
1.6 on discharge. The patient will foll

# DMII
On admission, the patient was briefly on Dexamethasone. With 
steriods, the patient had significantly elevated blood sugars. 
His glargine was increased to 25 units with improved control. He 
was advised to continue higher doses of glargine and reduce the 
dose if his sugars are low. No changes were made to his sliding 
scale.

# Hypertension
Lasix and ___ were initially held but resumed on discharge.

# Hyperlipidemia
Continued Statin.

Transitional issues:
- Lymph node biopsy is pending on discharge. The patient will 
follow up with a new oncologist after discharge
- The patient has follow up scheduled with interventional 
pulmonary in 3 weeks
- After whole brain radiation, the patient can follow up here 
with ___

HCP: ___ (wife) ___ (home)
___ (cell)

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 40 mg PO QPM 
2. Furosemide 20 mg PO DAILY 
3. Benicar (olmesartan) 20 mg oral DAILY 
4. Vitamin D ___ UNIT PO DAILY 
5. FoLIC Acid ___ mcg PO DAILY 
6. Aspirin 81 mg PO DAILY 
7. Glargine 20 Units Bedtime
Insulin SC Sliding Scale using Novolog Insulin

 
Discharge Medications:
1.  LevETIRAcetam 1000 mg PO BID 
RX *levetiracetam 1,000 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
2.  Glargine 25 Units Bedtime
Insulin SC Sliding Scale using Novolog Insulin 
3.  Aspirin 81 mg PO DAILY  
4.  Benicar (olmesartan) 20 mg oral DAILY  
5.  FoLIC Acid ___ mcg PO DAILY  
6.  Furosemide 20 mg PO DAILY  
7.  Simvastatin 40 mg PO QPM  
8.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Brain tumors, presumed metastatic
Lung mass
Lymphadenopathy
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Mr. ___,

It was a pleasure taking care of you during your recent 
admission to ___. You were admitted with new brain lesions. 
You were seen by the oncologists, radiation oncologists, 
neuro-oncolgists, neurosurgeons and interventional 
pulmonologists. You have been started on a new medication to 
prevent seizures. You had a CT scan which showed small lesions 
in your lungs and enlarged lymph nodes. You underwent a 
procedure to biopsy these lymph nodes. This biopsy is pending on 
discharge- you will be contacted with the results.

You have been set up to see your radiation oncologist. We have 
also referred you to a new oncologist. If you do not hear from 
his office in the next ___ days, please call to schedule an 
appointment. If you would like to follow up with the 
neuro-oncologists at ___, please call to schedule an 
appointment after your radiation.

We wish you the best,
Your ___ Care Team
 
Followup Instructions:
___